US06331549B1
One equivalent of 0.1 N solution of hydrogen chloride in isopropanol is added to 250 mg of (+)-2-ethyl-3-methyl-8-(1(R)-diethylamino-2-hydroxyethyl)quinoline. The isopropanol is evaporated off and the product is recrystallized from acetone. 0.20 g of (+)-2-ethyl-3-methyl-8-(1(R)-diethylamino-2-hydroxyethyl)quinoline hydrochloride is obtained in the form of a white solid—m.p.: 1870° C. [α]D20=+2.01°(C=1, methanol).

reactant | hydrogen chloride | Cl | ClH
reactant | (+)-2-ethyl-3-methyl-8-(1(R)-diethylamino-2-hydroxyethyl)quinoline | 250 mg | C(C)C1=NC2=C(C=CC=C2C=C1C)[C@H](CO)N(CC)CC | C18H26N2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | (+)-2-ethyl-3-methyl-8-(1(R)-diethylamino-2-hydroxyethyl)quinoline hydrochloride | 0.20 g | Cl.C(C)C1=NC2=C(C=CC=C2C=C1C)[C@H](CO)N(CC)CC | InChI=1S/C18H26N2O.ClH/c1-5-16-13(4)11-14-9-8-10-15(18(14)19-16)17(12-21)20(6-2)7-3;/h8-11,17,21H,5-7,12H2,1-4H3;1H/t17-;/m0./s1
